US06245790B1
To a solution of methyl (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoate (0.3 g) in a mixture of ethanol (8 ml) and tetrahydrofuran (5 ml) was added 1N-NaOH solution (3.5 ml). After being stirred for 24 hours at the same temperature, the solvent was removed. The residue was partitioned between ethyl acetate and lN-HCl and the organic layer was washed with brine. The dried solvent was evaporated in vacuo and the obtained solid was washed with a mixture hexane and ether to afford (S)-3-{[2-(4,5-diphenyl-oxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid(O.28 g).

reactant | methyl (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoate | 0.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)OC)C=CC1 | C30H27NO3
reactant | NaOH | 3.5 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-3-{[2-(4,5-diphenyl-oxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
